US06110939
3-methyl-2-benzofurancarboxylic acid (0.100 g) and 1-hydroxy-1H-benzotriazole (0.070 g) were added to (±)-trans-1-[(2-methyl-5-oxazolyl)methyl]-N-[1-[2-(phenylmethyl)-4-piperidinyl]-4-piperidinyl]-1H-benzimidazol-2-amine (0.100 g) in CH2Cl2 (5 ml). The mixture was stirred under N2 atmosphere. A solution of triethylamine (0.5 ml) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1:1) (0.080 g) in CH2Cl2 (10 ml) was added dropwise and the reaction mixture was stirred overnight at RT, under N2. Then, the compound was isolated and purified by column chromatography (eluent gradient: (0.5% ammoniumacetate in H2O)/CH3OH/CH3CN 70/15/15 upgrading over 0/50/50 to 0/0/100). The desired fractions were collected and the solvent was evaporated, yielding 0.060 g of (±)-trans-1-[(3-methyl-2-benzofuranyl)-carbonyl]-4-[4-[[1-[(2-methyl-5-oxazolyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-2-(phenylmethyl)piperidine.

reactant | 3-methyl-2-benzofurancarboxylic acid | 0.100 g | CC1=C(OC2=C1C=CC=C2)C(=O)O | C10H8O3
reactant | 1-hydroxy-1H-benzotriazole | 0.070 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (±)-trans-1-[(2-methyl-5-oxazolyl)methyl]-N-[1-[2-(phenylmethyl)-4-piperidinyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 0.100 g | CC=1OC(=CN1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)[C@H]2C[C@@H](NCC2)CC2=CC=CC=C2 | C29H36N6O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.080 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | (±)-trans-1-[(3-methyl-2-benzofuranyl)-carbonyl]-4-[4-[[1-[(2-methyl-5-oxazolyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-2-(phenylmethyl)piperidine | 0.060 g | CC1=C(OC2=C1C=CC=C2)C(=O)N2[C@H](C[C@@H](CC2)N2CCC(CC2)NC2=NC1=C(N2CC2=CN=C(O2)C)C=CC=C1)CC1=CC=CC=C1 | C39H42N6O3
